US06323176B1
1,2,3,4-Tetra-O-Acetyl-6-Deoxy-6-Methanesulfonyl-β-D-Glucopyranose
In a 100 mL round bottom flask containing 50 mL dichloromethane at 0° C. was placed 1,2,3,4-tetra-O-acetyl-β-D-glucopyranose (4.62 g, 13.26 mmol). To this solution was added triethylamine (2.77 mL, 19.90 mmol) followed by dropwise addition of methanesulfonyl chloride (1.23 mL, 15.9 mmol). The reaction was then warmed to room temperature and stirred for 3 hours at which time the reaction was diluted with 100 mL dichloromethane. The organic layer was then washed two times each with 50 mL of water, 1N aqueous hydrochloric acid, saturated aqueous sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate, filtered and the solvent removed in vacuo to yield 4.45 g of crude title compound as a white solid which was used directly in Preparation 2. (79%).

reactant | 1,2,3,4-tetra-O-acetyl-β-D-glucopyranose | 13.26 mmol, 4.62 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CO | C14H20O10
reactant | triethylamine | 19.90 mmol, 2.77 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15.9 mmol, 1.23 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1,2,3,4-Tetra-O-Acetyl-6-Deoxy-6-Methanesulfonyl-β-D-Glucopyranose | 4.45 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CS(=O)(=O)C | C15H22O11S
